US09212187B2
Synthesis of 3-bromo-1H-quinolin-2-one
Hydrogen peroxide solution(5.9 ml) was added to a THF solution (16 ml) of methyltrioxorhenium (VII) (24 mg). The mixture was stirred for 10 minutes at room temperature. 3-Bromoquinoline(4.0 g) was added thereto, and the mixture was stirred at room temperature for four days. Ethyl acetate(20 ml) was added to the reaction mixture. 20% Sodium sulfite aqueous solution(30 ml) was added slowly to the mixture under ice cooling. The mixture was stirred at room temperature. The organic layer was condensed to a half volume under reduced pressure. Ethyl acetate(20 ml) and 15% potassium carbonate aqueous solution(19 ml) were added thereto, and the organic layer was extracted. 15% Potassium carbonate aqueous solution(19 ml) of p-toluenesulfonyl chloride(4 g) were added thereto. The mixture was stirred for 10 minutes at room temperature. The generated insoluble matter was separated, washed with ethyl acetate, water, and then with ether, and dried to give the title compound(3.2 g) as a white powder.

reactant | Hydrogen peroxide | 5.9 ml | OO | H2O2
reactant | 3-Bromoquinoline | 4.0 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | Sodium sulfite | 30 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium carbonate | 19 ml | C([O-])([O-])=O.[K+].[K+]
catalyst | methyltrioxorhenium (VII) | 24 mg | C[Re](=O)(=O)=O
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 3-bromo-1H-quinolin-2-one | 3.2 g | BrC=1C(NC2=CC=CC=C2C1)=O | C9H6BrNO
